US07678913B2
A. Preparation of 4-(pyridin-4-yl)phenylamine
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.33 g, 6.07 mmol) in toluene (20 mL) and n-butanol (7 mL), a solution of 4-bromopyridine hydrochloride (0.608 g, 3.13 mmol) and Cs2CO3 (3.0-6 g, 9.39 mmol) in H2O (15 mL) was added. The mixture was degassed three times with Ar/vacuum cycle before being charged with Pd(Ph3P)4 (0.270 g, 0.230 mmol, 7% mol). It was then heated at reflux under Ar overnight. The reaction mixture was allowed to cool at room temperature, and then in an ice-bath. The precipitates were collected, dried on vacuum to give a solid (0.420 g). MS 171.0 (M+H)

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 6.07 mmol, 1.33 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | 4-bromopyridine hydrochloride | 3.13 mmol, 0.608 g | Cl.BrC1=CC=NC=C1
reactant | Cs2CO3 | 9.39 mmol, 3.0-6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | n-butanol | 7 mL | C(CCC)O | C4H10O
solvent | H2O | 15 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.230 mmol, 0.270 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(pyridin-4-yl)phenylamine | 0.420 g | N1=CC=C(C=C1)C1=CC=C(C=C1)N | C11H10N2
